US05011931
A mixture of 1-(4-fluoro-2-methylaminophenyl)-2-methylsulphinylethanone (100 g), prepared in a similar manner to that described in Example 1, sodium hydrogen sulphite (1 kg) and water (2.5 1) was stirred under nitrogen and heated at 90°-105° for 3 hours. The mixture was allowed to cool and then stood at ambient temperature for 72 hours. The mixture was extracted with dichloromethane (3×250 ml) and the combined extracts evaporated to give a solid product. Crystallisation from hexane gave 1-(4-fluoro-2-methylaminophenyl)-2-(methylthio)ethanone, m.p. 61.5°-63°.

reactant | 1-(4-fluoro-2-methylaminophenyl)-2-methylsulphinylethanone | 100 g | FC1=CC(=C(C=C1)C(CS(=O)C)=O)NC | C10H12FNO2S
reactant | sodium hydrogen sulphite | 1 kg | S(=O)(O)[O-].[Na+]
solvent | water | O | H2O
product | 1-(4-fluoro-2-methylaminophenyl)-2-(methylthio)ethanone | FC1=CC(=C(C=C1)C(CSC)=O)NC | C10H12FNOS
